US03962224
A mixture of p-methoxybenzyl α-thioformamidodiethylphosphonoacetate (188 mg., 0.5 mmole), powdered potassium carbonate (1.52 mg., 1.1 mmole) and chloro-2-propanone (44μl., 0.55 mmole) in acetone (2.5 ml.) is stirred at room temperature and under a nitrogen atmosphere. After 22 hours stirring, the mixture is filtered and the salts washed with acetone. The combined filtrate and washings are evaporated in vacuo to a dark residue which is shaken with csrbon tetrachloride (3 × 2 ml.). The combined extracts are washed with water (2 × 2 ml.) and saturated brine (2 ml.), dried over magnesium sulfate and evaporated in vacuo to give p-methoxybenzyl 5-methyl-6H-1,3-thiazine-4-carboxylate (116 mg.) as an orange oil.

reactant | p-methoxybenzyl α-thioformamidodiethylphosphonoacetate | 0.5 mmole, 188 mg | C(=S)NC(C(=O)OCC1=CC=C(C=C1)OC)P(=O)(OCC)OCC | C15H22NO6PS
reactant | potassium carbonate | 1.1 mmole, 1.52 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloro-2-propanone | 0.55 mmole, 44μl | ClCC(C)=O | C3H5ClO
solvent | acetone | 2.5 ml | CC(=O)C | C3H6O
product | p-methoxybenzyl 5-methyl-6H-1,3-thiazine-4-carboxylate | 116 mg | CC1=C(N=CSC1)C(=O)OCC1=CC=C(C=C1)OC | C14H15NO3S
